US05635527
Tetrahydrofuran (200 ml) was added to hydrochloride (7.55 g, 31.4 mmol) of 5-amidino-2-benzofurancarboxylic acid, and the mixture was ice-cooled. The mixture was maintained at pH 10 with a 1N aqueous sodium hydroxide solution while dropwise addition of benzyloxycarbonyl chloride (6.74 ml, 47.0 mmol) over about 15 minutes. The mixture was stirred for 30 minutes and then at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure. The resulting precipitate was collected by filtration, and washed with water and an equivalent mixture of n-hexane and ethyl acetate to give 7.94 g of 5-(benzyloxycarbonylamidino)-2-benzofurancarboxylic acid as a pale-yellow solid (75%).

reactant | hydrochloride | 31.4 mmol, 7.55 g | Cl | ClH
reactant | 5-amidino-2-benzofurancarboxylic acid | C(N)(=N)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C10H8N2O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | benzyloxycarbonyl chloride | 47.0 mmol, 6.74 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | Tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-(benzyloxycarbonylamidino)-2-benzofurancarboxylic acid | 7.94 g, 75% | C(C1=CC=CC=C1)OC(=O)NC(=N)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C18H14N2O5
